* extracted by klt extract --deck sg13cmos5l

* cell sg13cmos5l_bandgap_amp
* pin d1
* pin d2
* pin in_n
* pin in_p
* pin out
* pin pn
* pin tail
* pin vdd
* pin vss
* pin vsubs
.SUBCKT sg13cmos5l_bandgap_amp d1 d2 in_n in_p out pn tail vdd vss vsubs
* device instance $1 r0 *1 0,0 nfet
M$1 out d1 vss vsubs nfet L=1U W=10U AS=4P AD=4P PS=20.8U PD=20.8U
* device instance $2 r0 *1 20,0 nfet
M$2 d1 d1 vss vsubs nfet L=1U W=10U AS=4P AD=4P PS=20.8U PD=20.8U
* device instance $3 r0 *1 45,0 nfet
M$3 d2 d2 vss vsubs nfet L=1U W=10U AS=4P AD=4P PS=20.8U PD=20.8U
* device instance $4 r0 *1 65,0 nfet
M$4 pn d2 vss vsubs nfet L=1U W=10U AS=4P AD=4P PS=20.8U PD=20.8U
* device instance $5 r0 *1 20,20 pfet
M$5 tail in_p d1 vdd pfet L=1U W=20U AS=8P AD=8P PS=40.8U PD=40.8U
* device instance $6 r0 *1 45,20 pfet
M$6 tail in_n d2 vdd pfet L=1U W=20U AS=8P AD=8P PS=40.8U PD=40.8U
* device instance $7 r0 *1 20,40 pfet
M$7 vdd out tail vdd pfet L=1U W=10U AS=4P AD=4P PS=20.8U PD=20.8U
* device instance $8 r0 *1 45,40 pfet
M$8 vdd pn out vdd pfet L=1U W=10U AS=4P AD=4P PS=20.8U PD=20.8U
* device instance $9 r0 *1 70,40 pfet
M$9 vdd pn pn vdd pfet L=1U W=10U AS=4P AD=4P PS=20.8U PD=20.8U
.ENDS sg13cmos5l_bandgap_amp
